US09078444B2
A solution of 4-tert-butoxycarbonyl-3-methyl-benzoic acid (40 g) was suspended in tetrahydrofuran (160 mL). This solution was cooled to −30 C then N-methyl morpholine (18.7 mL) followed by isobutylchloroformate (24.2 mL) were added. A white precipitate appeared. The solution was stirred for 8 hours then a solution of ammonium hydroxide (100 mL) was added. The reaction mixture was slowly allowed to warm to room temperature over 48 hours. Then water was added and the mixture was extracted with ethyl acetate. The organic extract was washed with water, dried over sodium sulfate and concentrated to give a solid which was further triturated with a mixture of dichloromethane/ethyl acetate, filtered, to give tert-butyl 4-carbamoyl-2-methyl-benzoate (29.9 g) as a white solid. 1H-NMR (CDCl3, 400 MHz): 7.90 (d, 1 H), 7.72 (s, 1 H), 7.65 (d, 1 H), 2.63 (s, 3 H), 1.62 (s, 9 H).

reactant | 4-tert-butoxycarbonyl-3-methyl-benzoic acid | 40 g | C(C)(C)(C)OC(=O)C1=C(C=C(C(=O)O)C=C1)C | C13H16O4
reactant | N-methyl morpholine | 18.7 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 24.2 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 4-carbamoyl-2-methyl-benzoate | 29.9 g | C(N)(=O)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)C | C13H17NO3
